US08445684B2
2M anhydrous HCl/ether (2.0 mL) was added to a stirred solution of 2-[(1S,2R)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]ethanol (200 mg, 0.57 mmol) in dry MeOH (2.0 mL) at 0° C. The mixture was stirred at room temperature for 12 h and concentrated, and the residue was purified by HPLC to obtain pure 2-[(1S,2R)-2-[5-[(2(S)-azetidinyl)methoxy]-3-pyridyl]cyclopropyl]ethanol hydrochloride (115 mg). 1H NMR (CD3OD, 400 MHz) δ 8.53 (s, 1H), 8.37 (s, 1H), 7.99 (s, 1H), 5.05-4.90 (m, 1H), 4.75-4.51 (m, 2H), 4.23-4.05 (m, 2H), 3.76-3.64 (m, 2H), 2.83-2.59 (m, 2H), 2.11-1.99 (m, 1H), 1.79-1.58 (m, 2H), 1.55-1.39 (m, 1H), 1.34-1.23 (m, 1H), 1.21-1.09 (m, 1H). MS m/z (ESI) 271 (M+Na+).

reactant | HCl ether | 2M, 2.0 mL | Cl.CCOCC
reactant | 2-[(1S,2R)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]ethanol | 0.57 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)[C@H]1[C@@H](C1)CCO | C19H28N2O4
solvent | MeOH | 2.0 mL | CO | CH4O
product | 2-[(1S,2R)-2-[5-[(2(S)-azetidinyl)methoxy]-3-pyridyl]cyclopropyl]ethanol hydrochloride | 115 mg | Cl.N1[C@@H](CC1)COC=1C=C(C=NC1)[C@H]1[C@@H](C1)CCO | InChI=1S/C14H20N2O2.ClH/c17-4-2-10-6-14(10)11-5-13(8-15-7-11)18-9-12-1-3-16-12;/h5,7-8,10,12,14,16-17H,1-4,6,9H2;1H/t10-,12+,14-;/m1./s1
